US07622583B2
A mixture of 4-chloro-N-[5-chloro-2-(2-methoxy-pyridine-3-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (330.06 mg, mmol) in 5% H2SO4 in TFA (2 mL) and water (1 mL) was stirred at 50° C. for overnight. The reaction mixture was cooled to room temperature, diluted with water (5 mL) and treated slowly with saturated aqueous NaHCO3 solution till pH 7-8. The mixture was extracted with EtOAc (2×25 mL), dried (anhydrous Na2SO4) and concentrated. The obtained residue was purified via column chromatography (SiO2, 5% MeOH in EtOAc) to afford 4-chloro-N-[5-chloro-2-(2-methoxy-pyridine-3-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzene sulfonamide (15 mg) in 50% yield. ESMS m/z (relative intensity): 505.9 (M+H)+ (100), 527.9 (M+Na)+ (20).

reactant | 4-chloro-N-[5-chloro-2-(2-methoxy-pyridine-3-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 330.06 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(=O)C=1C(=NC=CC1)OC)C(F)(F)F | C21H16Cl2F3N3O5S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 5 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | 4-chloro-N-[5-chloro-2-(2-methoxy-pyridine-3-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzene sulfonamide | 15 mg, 50% yield | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)C=1C(=NC=CC1)OC)C(F)(F)F | C19H12Cl2F3N3O4S
